US07691882B2
3-(3-(6-Phenoxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (2 mL) solution of (2-phenoxy-pyridin-5-yl)-acetohydroximoyl chloride (100 mg, 0.381 mmol) described in Manufacturing Example 40-1-4 and 3-ethynyl-pyridin-2-ylamine (30 mg, 0.25 mmol) described in Manufacturing Example 1-2-3 was added triethylamine (71 μL, 0.51 mmol) under nitrogen atmosphere, which was stirred for 3 hours at 50° C. Water was added to the reaction mixture at room temperature, which was then extracted with ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:methanol=10:1) to obtain the title compound (27 mg, 31%).

reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | (2-phenoxy-pyridin-5-yl)-acetohydroximoyl chloride | 0.381 mmol, 100 mg | O(C1=CC=CC=C1)C1=NC=C(C=C1)CC(=NO)Cl | C13H11ClN2O2
reactant | 3-ethynyl-pyridin-2-ylamine | 0.25 mmol, 30 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 0.51 mmol, 71 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(6-Phenoxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine | 27 mg, 31% | O(C1=CC=CC=C1)C1=CC=C(C=N1)CC1=NOC(=C1)C=1C(=NC=CC1)N | C20H16N4O2
